US04147552
Preparation of methyl 7-diethylamino-3coumarinoylacetate.
A solution of 1.93 g 4-diethylaminosalicylaldehyde, 1.80 g. dimethyl 1,3-acetone dicarboxylate in 10 ml. alcohol containing 10 drops piperidine was heated under reflux on a steam bath for 2 hours. After chilling in the freezer, the product was collected and recrystallized from a mixture of alcohol and acetonitrile. Yield 2.6 g (82%).

reactant | 4-diethylaminosalicylaldehyde | 1.93 g | C(C)N(C=1C=C(C(C=O)=CC1)O)CC | C11H15NO2
reactant | dimethyl 1,3-acetone dicarboxylate | COC(=O)CC(=O)CC(=O)OC | C7H10O5
product | methyl 7-diethylamino-3coumarinoylacetate | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)C(=O)CC(=O)OC)CC | C17H19NO5
